Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, abd pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o female recently diagnosed with infectious mononucleosis
presenting with fevers, abdominal pain and weakness.

Ms. ___ states that her symptoms started with a headache 6
days ago, which improved with Excedrin migraine. On the 
following
day, she noted a fever and began feeling generally unwell. Then 
4
days ago she developed additional symptoms of fluctuating fever
___ highest measured at home) with chills, night sweats, sore
throat, fatigue with weakness, and nausea and vomiting. She
states that for the past 2 days she has had difficult keeping
food down and has vomited 4 times. The vomit looks like whatever
she recently tried eating. Around the same time, Ms. ___
developed abdominal pain which she localizes to the
infra-umbilical region and describes as a ___ dull pain. 
Nothing
makes this pain better and pushing on it makes it worse. Denies
any recent trauma to the abdomen. She went to partners urgent
care 2 days ago where she was diagnosed with infectious
mononucleosis. She states that one of her roommates was 
diagnosed
with mono in ___. 

On arrival to the ED, pt was febrile to 102, tachy to 125, SBP 
of
95 and Sats 100% on RA.  Labs were notable for leukopenia and
thrombocytopenia to ___, AST/ALT in 500s, Tbili of 3.8 and
lactate of 2.3.  Pt was given ___ of IVF, Tylenol, Toradol and
underwent a RUQ u/s that did not reveal any biliary dilation and
showed a decompressed GB with mild wall thickening.  Monospot
returned positive and repeat labs show drop in hgb from 13.9
->11.8.  Lactate came down to 1.3.  Repeat LFTs notable for LDH
of 753.  Tbili of 3.3, D bili 2.8 and haptoglobin pending.

ROS: Positive for constipation- patient states last bowel
movement was 5 days ago and describes her normal as ___ bowel
movements daily. Denies any difficultly breathing, recent 
changes
in weight or burning with urination.  10 point ROS reviewed and
otherwise negative.

Past Medical History:
Factor V Leiden (diagnosed with genetic screen after an uncle
experienced complications during an operation) 

Home Medications: 
Nexplanon implant 

Allergies: NKDA

Social Hx:
Third year health ___ major at ___. 
Lives with two female roommates in an off-campus apartment
Endorses ___ drinks ___ per week. 
Denies tobacco use
Endorses infrequent marijuana use. No other recreational drugs. 
Currently sexually active with last sexually activity ___
months ago. Endorses regularly using condoms. Denies any history
of STIs, but states that she recently went to the dermatologist
to have what may be a wart removed, but said the diagnosis has
yet to be confirmed. Counseled on safe sex practices. 

Family Hx
Uncle and Father with Factor V ___.
Mother and ___ Grandmother with ___ syndrome. 

ADMISSION PE:
VITALS: ___ 0827 Temp: 99.1 BP: 101/70 HR: 106 RR: 18 O2
sat: 95% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Oropharynx with cobbling and erythema. Tonsils are enlarged
bilaterally with exudate.
CV: Heart regular rate; normal perfusion
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored. Clear to auscultation bilaterally. 
GI: Abdomen soft, non-distended, liver is palpable below the rib
margin. Tenderness to light and deep palpation in the left lower
quadrant and intra-umbilical region. Negative Murphys sign. 
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted. No petechiae. 
NEURO: Alert, oriented, face symmetric speech fluent, moves all
limbs, sensation to light touch grossly intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect

 
Past Medical History:
See HPI
 
Social History:
___
Family History:
See HPI
 
Physical Exam:
DISCHARGE: 
=========
Temp: 99.9 PO BP: 95/59 HR: 112 RR: 18 O2 sat: 96% O2 delivery: 
RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Oropharynx with cobbling and erythema. Tonsils are enlarged
bilaterally with exudate.
CV: Heart regular rate; normal perfusion
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored. Clear to auscultation bilaterally. 
GI: Abdomen soft, non-distended, liver is palpable below the rib
margin. Tenderness to light and deep palpation in the left lower
quadrant and intra-umbilical region. Negative Murphys sign. 
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted. No petechiae. 
NEURO: Alert, oriented, face symmetric speech fluent, moves all
limbs, sensation to light touch grossly intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect

 
Pertinent Results:
ADMISSION LABS:
=============
WBC 3.5 (50% neuts) Hbg 11.8 Hct 35.5 Plt 71 
BUN 4 Creat 0.7 Na 137 K 3.9 Cl 106 HCO3 19 AnGap 12
___ 13.6 PTT 21.0 INR 1.3
ALT 408 AST 461 AP 262 LDH 753 T bili 3.3 Dbili 2.8 Alb 3.0
TIBC 151 Hapto ___ Ferritin 1038 TRF 116 
Lactate 2.3-->1.3

MICRO:
=====
Monospot: Positive 
Urine Analysis: Negative for blood, nitrites, and leuks. 
Positive for Ketones (10). 

IMAGING/OTHER STUDIES:
====================
RUQ u/s 1. No evidence of gallstones or 
intrahepatic/extrahepatic biliary ductal dilatation.
2. Markedly decompressed gallbladder demonstrating mild wall
thickening.

LABS ON DISCHARGE: 
================
___ 06:44AM BLOOD WBC-6.9 RBC-3.92 Hgb-11.9 Hct-34.6 MCV-88 
MCH-30.4 MCHC-34.4 RDW-13.4 RDWSD-43.5 Plt Ct-97*
___ 06:44AM BLOOD Glucose-88 UreaN-5* Creat-0.8 Na-133* 
K-4.2 Cl-98 HCO3-25 AnGap-10
___ 06:44AM BLOOD ALT-480* AST-408* AlkPhos-348* 
TotBili-4.6*
 
Brief Hospital Course:
___ with acute EBV presenting with fever and abdominal pain, 
admitted for ongoing supportive care. 

# Acute EBV "Mononucleosis" 
Presented with fever, Abdominal Pain Sore throat and fatigue 
with positive monospot and contact with roommate who recently 
had mono. No concern for major complications such as splenic 
rupture or airway compromise from tonsilitis. Noted to have 
cholestatic hepatitis . Treated with supportive care including 
IVF and antipyretics. Patients able to tolerate PO prior to 
discharge. 

# Abnormal LFTs:
Cholestatic hepatitis due to acute EBV infection. RUQ-US without 
stones or biliary obstruction. No concern for acute liver 
failure. LFTs elevated but stable at time of discharge. 

> 30 mins spent in discharge planning. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# acute EBV Mononucleosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___. You were 
admitted for further monitoring after presenting with abdominal 
pain and fevers secondary to underlying mono. There are no 
complications that warrant further hospitalization, but 
unfortunately, it will take a few weeks for your symptoms to 
fully resolve. We are prescribing some medications to take for 
nausea. It is very important that you remain hydrated. If you 
participate in any contact sports, then this should be avoided 
for a total of eight weeks. 

We expect that your fever will resolve over the next few days to 
one week. Due to elevated liver enzymes from the mono, we 
recommend that you do not take more than 2.5g of Tylenol total 
in one day. It is safe to take ibuprofen as directed on the 
packaging. 

Lastly, we recommend arranging a follow up appointment with your 
doctor once you arrive home. It is recommended that you have 
repeat blood work including liver function tests and a CBC. 

We wish you the best!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___